US07435837B2
(±)-{[7-(3-chloro-4-fluorophenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.052 g, 46%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-{[7-(3-chloro-4-fluorophenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}4-methylbenzenesulfonate (0.14 g, 0.31 mmol) and methylamine (0.097 g, 3.1 mmol). mp 197-199° C.

reactant | (±)-{[7-(3-chloro-4-fluorophenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}4-methylbenzenesulfonate | 0.31 mmol, 0.14 g | ClC=1C=C(C=CC1F)C1=CC(=CC=2CC(OC21)COS(=O)(=O)C2=CC=C(C=C2)C)OC | C23H20ClFO5S
reactant | methylamine | 3.1 mmol, 0.097 g | CN | CH5N
product | (±)-{[7-(3-chloro-4-fluorophenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | ClC=1C=C(C=CC1F)C1=CC(=CC=2CC(OC21)CNC)OC | C17H17ClFNO2
